US05013479
An acid chloride prepared from 1.80 g (10 mmol) of (-)-4-(1-methoxyethyl)benzoic acid and oxalyl chloride was added to a solution comprising 2.66 g (12 mmol) of 4-(octyloxy)phenol, 10 g of pyridine and 30 g of toluene at room temperature. The mixed solution was stirred at the same temperature for one hour and then at 40° C. -50° C. for 2 hours. The resulting reaction mixture was treated and purified according to Example 1 to obtain 3.78 g (98.5% yield) of (-)-4-(octyloxy)phenyl 4-(1-methoxyethyl)-benzoate. [α]D20 =-57.7° (c=1, CHCl3).

reactant | (-)-4-(1-methoxyethyl)benzoic acid | 10 mmol, 1.80 g | COC(C)C1=CC=C(C(=O)O)C=C1 | C10H12O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(octyloxy)phenol | 12 mmol, 2.66 g | C(CCCCCCC)OC1=CC=C(C=C1)O | C14H22O2
reactant | pyridine | 10 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 30 g | C1(=CC=CC=C1)C | C7H8
product | (-)-4-(octyloxy)phenyl 4-(1-methoxyethyl)-benzoate | 3.78 g, 98.5% yield | COC(C)C1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCCCCC)C=C1 | C24H32O4
